US07786142B2
Synthesis of 1-(9H-carbazol-4-yloxy)-3-{4-[(5-nitro-2-furyl)methyl]piperazin-1-yl}propan-2-ol
To a mixture of 1-(9H-carbazol-4-yloxy)-3-piperazin-1-yl propan-2-ol (0.5 g 1.54 mmol) in THF (10 mL), was added 2-3 drops of glacial acetic acid, followed by 5-nitrofurfural (0.325 g, 2.3 mmol). To the above solution Na(OAc)3BH (0.98 g, 4.6 mmol) was added carefully at room temperature and the reaction mixture was stirred at room temperature for 6 hours. Subsequently the reaction mixture was diluted with dichloromethane (50 mL), washed with water and brine solution. The organic layer was dried over anhydrous Na2SO4, concentrated, and purified by silica gel column chromatography using dichloromethane/MeOH (9:1) to afford the title compound as a yellow colored solid (0.2 g, 29% yield) with m.p.: 54-59° C. 1H NMR (400 MHz, CDCl3): δ 2.40-2.65 (m, 6H), 2.70-2.80 (m, 4H), 3.67 (s, 2H), 4.20-4.25 (m, 1H), 4.27-4.34 (m, 2H) 6.49 (d, 1H, J=3.6 Hz), 6.67 (d, 1H, J=8.0 Hz), 7.06 (d, 1H, J=8.0 Hz), 7.20-7.50 (m, 5H), 8.27 (s, 1H), and 8.30 (d, 1H, J=8 Hz). MS m/z: 451 (M+1).

reactant | 1-(9H-carbazol-4-yloxy)-3-piperazin-1-yl propan-2-ol | 1.54 mmol, 0.5 g | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC(CN1CCNCC1)O | C19H23N3O2
reactant | 5-nitrofurfural | 2.3 mmol, 0.325 g | [N+](=O)([O-])C1=CC=C(C=O)O1 | C5H3NO4
reactant | Na(OAc)3BH | 4.6 mmol, 0.98 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | acetic acid | 2-3 drops | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(9H-carbazol-4-yloxy)-3-{4-[(5-nitro-2-furyl)methyl]piperazin-1-yl}propan-2-ol | 0.2 g, 29% yield | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC(CN1CCN(CC1)CC=1OC(=CC1)[N+](=O)[O-])O | C24H26N4O5
